US08084484B2
e) Ethyl 2-(2,3-dihydro-2-oxo-1H-benzo[d]imidazol-5-yl)propanoate
A solution of ethyl 2-(3,4-diaminophenyl)propanoate (222 mg, 1.07 mmol) in CH2Cl2 (4 mL) was added 1,1′-Thiocarbonyl diimidazole (241 mg) and DBU (345 mg, in CH2Cl2 (4 mL)) at room temperature. The reaction mixture was stirred for 1 hr at room temperature. The mixture was diluted with H2O (20 mL) and extracted with CH2Cl2. The organic layer was dried over MgSO4, filtered, and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel using EtOAc:hexanes (1:4-1:2) as eluant.

reactant | ethyl 2-(3,4-diaminophenyl)propanoate | 1.07 mmol, 222 mg | NC=1C=C(C=CC1N)C(C(=O)OCC)C | C11H16N2O2
reactant | 1,1′-Thiocarbonyl diimidazole | 241 mg | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
reactant | DBU | 4 mL, 345 mg | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | H2O | 20 mL | O | H2O
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | Ethyl 2-(2,3-dihydro-2-oxo-1H-benzo[d]imidazol-5-yl)propanoate | O=C1NC2=C(N1)C=CC(=C2)C(C(=O)OCC)C | C12H14N2O3
